US06881733B1
A solution of 2.28 gm (9.8 mMol) 5,6-difluoro-7-bromobenzofuran in 30 mL tetrahydrofuran was cooled to −78° C. and then 9.8 mL (19.6 mMol) tert-butyllithium (1.7M in tetrahydrofuran) were added. After stirring for 30 minutes, a solution of 1.9 gm (8.9 mMol) 1-(tert-butoxycarbonyl)-2-methyl-4-oxo-piperidine in 20 mL tetrahydrofuran was added dropwise over 30 minutes. The reaction mixture was allowed to warm to room temperature over 16 hours and was then concentrated under reduced pressure. The residue was dissolved in 200 mL ethyl acetate and extracted sequentially with 50 mL 1N hydrochloric acid, saturated aqueous sodium bicarbonate, and saturated aqueous sodium chloride. The remaining organic phase was dried over magnesium sulfate and concentrated under reduced pressure to provide 1-(tert-butoxycarbonyl)-2-methyl-4-hydroxy-4-(5,6-difluorobenzofur-7-yl)piperidine. This alcohol was converted to a mixture of the title compounds essentially as described in EXAMPLE 1.

reactant | 5,6-difluoro-7-bromobenzofuran | 9.8 mMol, 2.28 gm | FC=1C(=C(C2=C(C=CO2)C1)Br)F | C8H3BrF2O
reactant | tert-butyllithium | 19.6 mMol, 1.7M, 9.8 mL | C(C)(C)(C)[Li]
reactant | 1-(tert-butoxycarbonyl)-2-methyl-4-oxo-piperidine | 8.9 mMol, 1.9 gm | C(C)(C)(C)OC(=O)N1C(CC(CC1)=O)C | C11H19NO3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(tert-butoxycarbonyl)-2-methyl-4-hydroxy-4-(5,6-difluorobenzofur-7-yl)piperidine | C(C)(C)(C)OC(=O)N1C(CC(CC1)(C1=C(C(=CC=2C=COC21)F)F)O)C | C19H23F2NO4
